US07700633B2
To a suspension of 5-nitrobenzo[d]isoxazole-3,6-diol (1.1 g, 5.61 mmol) and potassium carbonate (3.9 g, 28.2 mmol) in DMF (10 mL) is added dropwise allyl bromide (1.42 mL, 8.30 mmol). The mixture is stirred at room temperature for 18 h. The mixture is diluted with EtOAc, and ice and water are added. The organic phase is separated and washed with water and brine, and dried over MgSO4, filtered and concentrated to afford 3,6-bis-allyloxy-5-nitrobenzo[d]isoxazole as a solid.

reactant | 5-nitrobenzo[d]isoxazole-3,6-diol | 5.61 mmol, 1.1 g | [N+](=O)([O-])C=1C(=CC2=C(C(=NO2)O)C1)O | C7H4N2O5
reactant | potassium carbonate | 28.2 mmol, 3.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 8.30 mmol, 1.42 mL | C(C=C)Br | C3H5Br
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3,6-bis-allyloxy-5-nitrobenzo[d]isoxazole | C(C=C)OC1=NOC2=C1C=C(C(=C2)OCC=C)[N+](=O)[O-] | C13H12N2O5
